US06544985B2
3-(8-Dimethylamino-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile
The title compound was prepared from {2-[3-(3-cyano-phenyl)-3-oxo-propionyl-amino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester (Example M66) (180 mg, 1.0 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (41 mg).

reactant | {2-[3-(3-cyano-phenyl)-3-oxo-propionyl-amino]-5-dimethylamino-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester | 1.0 mmol, 180 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C24H25F3N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(8-Dimethylamino-4-oxo-7-trifluoromethyl-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-benzonitrile | CN(C=1C(=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C1)C(F)(F)F)C | C19H15F3N4O
